US08623859B2
4-Methoxy-N,2,6-trimethyl-N-[(3-{[4-(pyridin-3-ylmethyl)piperazin-1-yl]carbonyl}-1,2,4-oxadiazol-5-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AT using ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-3-carboxylate (27 mg, 0.07 mmol), 1-(pyridin-3-ylmethyl)piperazine (40 mg, 0.23 mmol) and trimethylaluminium (2 M in toluene, 0.08 mL) in DCE (2 mL). A portion of the crude product was purified using prep method D.

reactant | ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-3-carboxylate | 0.07 mmol, 27 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NC(=NO1)C(=O)OCC)C | C16H21N3O6S
reactant | 1-(pyridin-3-ylmethyl)piperazine | 0.23 mmol, 40 mg | N1=CC(=CC=C1)CN1CCNCC1 | C10H15N3
reactant | trimethylaluminium | 2 M, 0.08 mL | C[Al](C)C
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | 4-Methoxy-N,2,6-trimethyl-N-[(3-{[4-(pyridin-3-ylmethyl)piperazin-1-yl]carbonyl}-1,2,4-oxadiazol-5-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC1=NC(=NO1)C(=O)N1CCN(CC1)CC=1C=NC=CC1)C)C | C24H30N6O5S
